US09029544B2
1-(4-Iodophenyl)-2-methylpropan-1-ol
2.5 g 4-Iodobenzaldehyde are dissolved in 25 ml diethylether, cooled to 0° C. and treated dropwise with 6.0 ml of a 2 M solution of isopropylmagnesium chloride in tetrahydrofurane. The temperature is slowly raised to room temperature and the mixture is stirred for further 12 hours. Then the reaction is quenched by addition of half saturated aqueous ammonium chloride. The aqueous phase is twice extracted with ethylacetate and the combined organic phases are washed twice with saturated aqueous ammonium chloride and brine. After drying with magnesium sulphate the solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 100:0 to 40:60).

reactant | 4-Iodobenzaldehyde | 2.5 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-(4-Iodophenyl)-2-methylpropan-1-ol | IC1=CC=C(C=C1)C(C(C)C)O | C10H13IO
